US06051586
EXAMPLE 138 5-Bromo-2-(2,5-dimethyl-pyrrol-1-yl)-pyridine
Hexane-2,5-dione (97 mL, 831 mmol) was added to a solution of 2-amino-5-bromo-pyridine (125 g, 722 mmol) in cyclohexane (625 mL) and acetic acid (20 mL). The solution was heated to reflux under argon atmosphere with a Dean-Stark trap. A total of 30 mL of water was collected from the Dean-Stark trap. The mixture was allowed to cool to room temperature, diluted with water, and extracted with diethyl ether. The organic phase was washed with 1N hydrochloric acid (4×), saturated aqueous sodium bicarbonate solution (2×) and saturated aqueous sodium chloride solution (2×). The organic phase was dried (MgSO4) and concentrated in vacuo to yield a yellow solid. The product was dissolved in hot hexanes (200 mL). Charcoal was added and the mixture filtered. Crystallization proceeded over three hours at 0° C. The solid was collected by filtration to yield yellow crystals (145 g, 80%). Mp=69° C.; 1H NMR (CDCl3, 300 MHz) δ 8.66 (d, 9 Hz, 1 H), 7.96 (dd, 9 Hz, 8 Hz, 1 H), 7.15 (d, 8 Hz, 1 H), 5.91 (s, 2 H), 2.14 (s, 6 H); MS (CI) m/z 251 (MH+); Anal. Calcd. for C11H11BrN2 : C, 52.61; H, 4.42; N, 11.16; Br, 31.82. Found: C, 52.62; H, 4.56; N, 11.18; Rf =0.4 (60:40 dichloromethane/hexanes).

reactant | Hexane-2,5-dione | 831 mmol, 97 mL | CC(CCC(C)=O)=O | C6H10O2
reactant | 2-amino-5-bromo-pyridine | 722 mmol, 125 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | Charcoal | C | CH4
solvent | cyclohexane | 625 mL | C1CCCCC1 | C6H12
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 5-Bromo-2-(2,5-dimethyl-pyrrol-1-yl)-pyridine | 145 g, 80% | BrC=1C=CC(=NC1)N1C(=CC=C1C)C | C11H11BrN2
